US09260427B2
Tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-((5-methylhexyl)oxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate
Prepared using General Procedure 12 from tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate and 1-bromo-5-methyl hexane. LCMS-ESI (m/z) calculated for C44H56N4O5: 720.9. found 721.4 [M+H]+, tR=5.39 min. (Method 16).

reactant | tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-hydroxyphenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NCCC(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)O)C=C1 | C37H42N4O5
reactant | 1-bromo-5-methyl hexane | BrCCCCC(C)C | C7H15Br
product | Tert-butyl (S)-3-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-((5-methylhexyl)oxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NCCC(=O)OC(C)(C)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCC(C)C)C=C1 | C44H56N4O5
